US07763732B2
A solution of 7-chloroindole (7.1 g, 47.0 mmol) in dimethylformamide (60 ml) was cooled to 5° C. under nitrogen and trifluoroacetic anhydride (7.6 ml, 54.0 mmol) was added over 10 mins, maintaining the temperature below 10° C. The mixture was stirred at 5-10° C. for 2 h, then poured into water (600 ml). The resulting suspension was stirred for 15 mins and the 7-chloro-3-[(trifluoromethyl)carbonyl]-1H-indole precipitate was filtered off, washing with water to neutrality. The damp solid was suspended in 4 M aqueous sodium hydroxide (500 ml) and heated to reflux with stirring for 1 h. The mixture was cooled and washed with diethyl ether (2×100 ml). The aqueous phase was then acidified to pH 1 using 5 M hydrochloric acid and the resulting fine precipitate filtered off, washed with water to neutrality and dried to afford 7-chloro-1H-indole-3-carboxylic acid as a pink solid (7.5 g, 38.0 mmol).

reactant | 7-chloroindole | 47.0 mmol, 7.1 g | ClC=1C=CC=C2C=CNC12 | C8H6ClN
reactant | trifluoroacetic anhydride | 54.0 mmol, 7.6 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 600 ml | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 7-chloro-1H-indole-3-carboxylic acid | 38.0 mmol, 7.5 g | ClC=1C=CC=C2C(=CNC12)C(=O)O | C9H6ClNO2
